US08034945B2
(b). 3-Bromo-5-formyl-2-hydroxy-benzoic acid methyl ester
To a solution of 5-formyl-2-hydroxy-benzoic acid methyl ester (7.93 g) in acetic acid (50 ml) and dichloromethane (40 ml), cooled to 0° C., was added bromine (2.49 ml). After stirring for 17 h, the mixture was allowed to reach room temperature. Sodium acetate (3.61 g) was added and stirring was continued for 1 h. The mixture was diluted with water and extracted with ethyl acetate. The organic layer was dried (MgSO4), filtered and concentrated in vacuo.

reactant | 5-formyl-2-hydroxy-benzoic acid methyl ester | 7.93 g | COC(C1=C(C=CC(=C1)C=O)O)=O | C9H8O4
reactant | bromine | 2.49 ml | BrBr | Br2
reactant | Sodium acetate | 3.61 g | C(C)(=O)[O-].[Na+]
solvent | acetic acid | 50 ml | C(C)(=O)O | C2H4O2
solvent | dichloromethane | 40 ml | ClCCl | CH2Cl2
solvent | water | O | H2O
product | 3-Bromo-5-formyl-2-hydroxy-benzoic acid methyl ester | COC(C1=C(C(=CC(=C1)C=O)Br)O)=O | C9H7BrO4
